US04994535
Tribromoethylene was reacted with dicyclopentadiene at 190° C. in the same manner as Examples 1-7 to produce 5,5,6-tribromonorbornene (called "TBN" hereinafter).

reactant | Tribromoethylene | BrC=C(Br)Br | C2HBr3
reactant | dicyclopentadiene | C1C=CC2C1C3CC2C=C3 | C10H12
product | 5,5,6-tribromonorbornene | BrC1(C2C=CC(C1Br)C2)Br | C7H7Br3
